2145-09-02 08:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2145-9-1**] 10:23 PM
 PAN CULTURE - At [**2145-9-1**] 11:00 PM
 [**Location (un) **] LINE - START [**2145-9-2**] 12:36 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-2**] 03:04 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Octreotide - 25 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-2**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 69 (68 - 80) bpm
   BP: 89/54(61) {87/43(55) - 106/62(71)} mmHg
   RR: 18 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                     17 mL
                                                                  6,719 mL
   PO:
           TF:
   IVF:
                                                                     17 mL
                                                                  6,344 mL
   Blood products:
   375 mL
   Total out:
                                                                      0 mL
                                                                    630 mL
   Urine:
   630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     17 mL
                                                                  6,089 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.32/39/95.[**Numeric Identifier **]/18/-5
   Ve: 9.5 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   70 K/uL
   113 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.3 mEq/L
   27 mg/dL
   118 mEq/L
   144 mEq/L
   27.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2145-9-1**]  10:35 PM
                             [**2145-9-1**]  11:09 PM
                             [**2145-9-2**]  03:02 AM
                             [**2145-9-2**]  03:21 AM
   WBC
   8.0
   6.1
   Hct
   30.5
   33
   29
   27.4
   Plt
   77
   70
   Cr
   2.0
   1.8
   TropT
   <0.01
   TCO2
   22
   21
   Glucose
   115
   113
   Other labs: PT / PTT / INR:18.2/45.0/1.6, CK / CKMB /
   Troponin-T:69//<0.01, ALT / AST:25/50, Alk Phos / T Bili:64/5.8,
   Fibrinogen:120 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.6 g/dL, LDH:202
   IU/L, Ca++:7.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, ASPIRATION
 HEPATIC ENCEPHALOPATHY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2145-9-2**] 12:36 AM
   20 Gauge - [**2145-9-2**] 12:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2145-09-03 07:45:00 Physician Resident Progress Note
24 Hour Events:
 [**Location (un) **] LINE - START [**2145-9-2**] 05:33 PM
 ARTERIAL LINE - START [**2145-9-2**] 05:52 PM
 [**Location (un) **] LINE - STOP [**2145-9-3**] 01:01 AM
   - [**Hospital1 1195**] Cultures UCx [**8-31**] neg; Blood 9/29 NGTD, Sputum [**8-31**] mixed flora
   - cordis placed
   - a-line placed
   - albumin 50 gm IV x 1 given
   - diagnostic paracentesis performed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-3**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Octreotide - 25 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2145-9-3**] 02:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-3**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 67 (65 - 79) bpm
   BP: 101/50(69) {98/50(69) - 127/70(92)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 88 kg
    CVP: 14 (14 - 22)mmHg
   Total In:
                                                                  7,626 mL
                                                                    418 mL
   PO:
   TF:
   IVF:
                                                                  6,981 mL
                                                                    298 mL
   Blood products:
                                                                    525 mL
   Total out:
                                                                  1,700 mL
                                                                    485 mL
   Urine:
                                                                  1,700 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,926 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 63 (63 - 63) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/30/107/19/-4
   Ve: 8.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   61 K/uL
   9.2 g/dL
   110 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.9 mEq/L
   21 mg/dL
   119 mEq/L
   146 mEq/L
   26.4 %
   4.5 K/uL
        [image002.jpg]
                             [**2145-9-1**]  10:35 PM
                             [**2145-9-1**]  11:09 PM
                             [**2145-9-2**]  03:02 AM
                             [**2145-9-2**]  03:21 AM
                             [**2145-9-2**]  10:12 AM
                             [**2145-9-2**]  05:29 PM
                             [**2145-9-2**]  07:27 PM
                             [**2145-9-2**]  11:08 PM
                             [**2145-9-3**]  03:44 AM
                             [**2145-9-3**]  03:59 AM
   WBC
   8.0
   6.1
   4.5
   Hct
   30.5
   33
   29
   27.4
   29.0
   27.6
   26.6
   26.4
   Plt
   77
   70
   61
   Cr
   2.0
   1.8
   1.4
   1.2
   TropT
   <0.01
   TCO2
   22
   21
   18
   19
   Glucose
   115
   113
   115
   110
   Other labs: PT / PTT / INR:20.5/48.2/1.9, CK / CKMB /
   Troponin-T:69//<0.01, ALT / AST:22/50, Alk Phos / T Bili:49/9.0,
   Fibrinogen:98 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:191
   IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: Fibrinogen 98
   9.0*
   Imaging: Ultrasound: + Ascites. Again no flow seen in portal
   circulation.
   Microbiology: [**2145-9-2**]  FLUID RECEIVED IN BLOOD CULTURE BOTTLES Fluid
   Culture in Bottles-PENDING INPATIENT
   [**2145-9-2**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY INPATIENT
   [**2145-9-1**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2145-9-1**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2145-9-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2145-9-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2145-9-1**]  URINE URINE CULTURE-PENDING
   Assessment and Plan
   57 yo M with PMHx of alcoholic ESLD on transplant list, esophageal
   varices transferred from [**Hospital1 1195**] for further evaluation of TIPs procedure
   after GI bleed.
   # GI Bleed: Likely upper given history of esophageal varices and
   gastric/esophageal ulcers at the banding site. Also contributing with
   portal hypertensive gastropathy oozing in setting of elevated INR.
   -octreotide gtt remains on
   -protonix gtt remains on
   - q8h hct, xfuse hct<25
   - Cordis for access, replaced yesterday
   - trend INR, keep INR <2 with FFP or active bleeding, redose 10mg IV
   vitamin K x1 today
   - fibrinogen < 100
 cryoprecipitate
   - NPO
   - carafate
   - zosyn empiric for GI bleed
   # ESLD: Complicated by variceal bleeds and hepatic encephalopathy.
   Diagnosic para negative for SBP. Liver U/S without portal venous flow.
   MELD 24
   - hold nadolol given GI bleed
   - continue rifaxamin and lactulose
   -appreciate liver input
   - for encephalopathy, started rifaximin, lactulose.
   # Respiratory: Intubated for protection of airway
   - will extubate today
   - shut off sedation
   # Met acidosis: AG and non AG based on deltadelta of 0.7. Lactate Also
   patient likely has baseline respiratory alkalosis.
   -repeat lactate
   # ARF: doubt this is HRS given improvement, no need for more saline
   - continue colloid as needed per liver team
   # PNA: Has CXR with LLL collapse and questionable infiltrate in R
   middle lobe. ? Aspiration with intubation. Sputum Cx from OSH with GPC
   in pairs.
   - empiric coverage VAP/aspiration with Vanc/Zosyn
 will likely d/c
   vanc tomorrow if continues to be afebrile
   - f/u sputum culture from OSH
   .
   # Portal Vein Thrombosis: Documented at OSH and previous ultrasounds at
   [**Hospital1 1**]. Given recent GIB anticoagulation contraindicated.
   -monitor LFTs
   .
   # Thombocytopenia: Previous baseine 50-60s. Received 1 units of
   platelets.
   - trend plts
   - transfuse if active bleeding or plt < 50
   # Elevated INR: Likely [**1-4**] liver disease and coagulopathy given recent
   bleeds. INR 1.5. No current signs of bleeding admission or oozing from
   IVs. FDP elevated.
   - f/u fibrinogen replace <100
   - trend INR
   # prolonged QT: Borderline on previous EKGs here. Noted on admission
   EKG.
   -avoid meds that could prolong QT more
   -replete elytes K>4 and Mg>2
   # FEN: IVF sprn  / replete lytes prn / NPO
   # PPX: PPI gtt, pnemoboots, hold bowel regimen
   # ACCESS: Cordis (R)  and 3 PIVs
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-9-2**] 12:38 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2145-9-2**] 05:33 PM
   Arterial Line - [**2145-9-2**] 05:52 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   VAP:  bundle, HOB
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:ICU

2145-09-04 06:42:00 Physician Resident Progress Note
24 Hour Events:
   - changed vancomycin 1 gm q 12 hours
   - no change in OSH cultures
   - nutrition consulted --> tube feeds started
   - Liver recs: increased rifaximin, cont lactulose, change PPI to [**Hospital1 **],
   cont octreotride gtt until [**2145-9-5**] at 1 PM, repeat abd U/S to assess
   patency of portal system, and if Cr stable, would want MRI.  If portal
   vein and SMV all thrombosed, may not be transplant candidate.
   - abd u/s completed
   - Hct 27.7
   - sedation off, but still somnolent
   - 500 cc IVF bolus x 1 overnight for low SBP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-3**] 08:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-4**] 04:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2145-9-3**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-4**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 64 (64 - 80) bpm
   BP: 108/56(76) {98/49(68) - 123/63(85)} mmHg
   RR: 17 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 88 kg
   Height: 70 Inch
    CVP: 12 (7 - 18)mmHg
   Total In:
                                                                  2,242 mL
                                                                    512 mL
   PO:
   TF:
                                                                     40 mL
                                                                    160 mL
   IVF:
                                                                  1,602 mL
                                                                    222 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  2,325 mL
                                                                    490 mL
   Urine:
                                                                  1,525 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -83 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 327 (327 - 327) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 19 cmH2O
   Plateau: 11 cmH2O
   Compliance: 91.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/34/135/20/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   63 K/uL
   9.3 g/dL
   154 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.8 mEq/L
   16 mg/dL
   119 mEq/L
   145 mEq/L
   26.4 %
   4.5 K/uL
        [image002.jpg]
                             [**2145-9-2**]  10:12 AM
                             [**2145-9-2**]  05:29 PM
                             [**2145-9-2**]  07:27 PM
                             [**2145-9-2**]  11:08 PM
                             [**2145-9-3**]  03:44 AM
                             [**2145-9-3**]  03:59 AM
                             [**2145-9-3**]  11:31 AM
                             [**2145-9-3**]  06:56 PM
                             [**2145-9-3**]  08:04 PM
                             [**2145-9-4**]  04:00 AM
   WBC
   4.5
   4.5
   Hct
   29.0
   27.6
   26.6
   26.4
   27.7
   29.5
   26.4
   Plt
   61
   64
   63
   63
   Cr
   1.4
   1.2
   1.1
   TCO2
   18
   19
   20
   Glucose
   115
   110
   154
   Other labs: PT / PTT / INR:19.8/51.3/1.8, CK / CKMB /
   Troponin-T:69//<0.01, ALT / AST:22/53, Alk Phos / T Bili:51/8.5,
   Fibrinogen:144 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:208
   IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
[**2145-9-2**] 3:26 pm PERITONEAL FLUID
   GRAM STAIN (Final [**2145-9-2**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
   FLUID CULTURE (Preliminary):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):
[**2145-9-2**] 3:26 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID #2.
      Fluid Culture in Bottles (Preliminary):    NO GROWTH
   [**9-1**] BCx NGTD
[**2145-9-1**] 10:52 pm SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2145-9-2**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   [**9-1**] UCX negative
   [**9-3**] Abd U/S: IMPRESSION:
   1. No flow demonstrated in the left portal vein, which is consistent
   with
   stable thrombosis. The main portal vein and right portal vein
   demonstrate
   patency with very slow flow.
   2. Cirrhosis and ascites.
   3. Cholelithiasis.
   Assessment and Plan
   57 yo M with PMHx of alcoholic ESLD on transplant list, esophageal
   varices transferred from [**Hospital1 1195**] for further evaluation of TIPs procedure
   after GI bleed.
   # GI Bleed: Likely upper given history of esophageal varices and
   gastric/esophageal ulcers at the banding site. Also contributing with
   portal hypertensive gastropathy oozing in setting of elevated INR.
   -octreotide gtt remains on
   -protonix gtt remains on
   - q8h hct, xfuse hct<25
   - Cordis for access, replaced yesterday
   - trend INR, keep INR <2 with FFP or active bleeding, redose 10mg IV
   vitamin K x1 today
   - fibrinogen < 100
 cryoprecipitate
   - NPO
   - carafate
   - zosyn empiric for GI bleed
   # ESLD: Complicated by variceal bleeds and hepatic encephalopathy.
   Diagnosic para negative for SBP. Liver U/S without portal venous flow.
   MELD 24
   - hold nadolol given GI bleed
   - continue rifaxamin and lactulose
   -appreciate liver input
   - for encephalopathy, started rifaximin, lactulose.
   # Respiratory: Intubated for protection of airway
   - will extubate today
   - shut off sedation
   # Met acidosis: AG and non AG based on deltadelta of 0.7. Lactate Also
   patient likely has baseline respiratory alkalosis.
   -repeat lactate
   # ARF: doubt this is HRS given improvement, no need for more saline
   - continue colloid as needed per liver team
   # PNA: Has CXR with LLL collapse and questionable infiltrate in R
   middle lobe. ? Aspiration with intubation. Sputum Cx from OSH with GPC
   in pairs.
   - empiric coverage VAP/aspiration with Vanc/Zosyn
 will likely d/c
   vanc tomorrow if continues to be afebrile
   - f/u sputum culture from OSH
   .
   # Portal Vein Thrombosis: Documented at OSH and previous ultrasounds at
   [**Hospital1 1**]. Given recent GIB anticoagulation contraindicated.
   -monitor LFTs
   .
   # Thombocytopenia: Previous baseine 50-60s. Received 1 units of
   platelets.
   - trend plts
   - transfuse if active bleeding or plt < 50
   # Elevated INR: Likely [**1-4**] liver disease and coagulopathy given recent
   bleeds. INR 1.5. No current signs of bleeding admission or oozing from
   IVs. FDP elevated.
   - f/u fibrinogen replace <100
   - trend INR
   # prolonged QT: Borderline on previous EKGs here. Noted on admission
   EKG.
   -avoid meds that could prolong QT more
   -replete elytes K>4 and Mg>2
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-9-3**] 08:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2145-9-2**] 05:33 PM
   Arterial Line - [**2145-9-2**] 05:52 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2145-09-05 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -put on 5 and 5, sedation off, not waking up, tube feeds off during the
   day but not extubatable
   -liver recs: increase lactulose for improved mental status
   -discontinued Vanc
   -strange breathing pattern on PSV put on MMV bc of taking large tidal
   volumes and then would take small tidal volumes
   -hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-4**] 08:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-5**] 04:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-9-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-5**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 86 (71 - 86) bpm
   BP: 130/68(92) {109/56(77) - 143/75(99)} mmHg
   RR: 14 (7 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.5 kg (admission): 88 kg
   Height: 70 Inch
    CVP: 14 (9 - 22)mmHg
   Total In:
                                                                  1,994 mL
                                                                  1,014 mL
   PO:
   TF:
                                                                    664 mL
                                                                    539 mL
   IVF:
                                                                    950 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    405 mL
   Urine:
                                                                  1,260 mL
                                                                    405 mL
   NG:
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                    -16 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 875 (732 - 1,000) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.36/40/152/19/-2
   Ve: 8.2 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   65 K/uL
   9.2 g/dL
   180 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   15 mg/dL
   120 mEq/L
   145 mEq/L
   28.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2145-9-3**]  03:44 AM
                             [**2145-9-3**]  03:59 AM
                             [**2145-9-3**]  11:31 AM
                             [**2145-9-3**]  06:56 PM
                             [**2145-9-3**]  08:04 PM
                             [**2145-9-4**]  04:00 AM
                             [**2145-9-4**]  09:15 AM
                             [**2145-9-4**]  04:24 PM
                             [**2145-9-5**]  02:38 AM
                             [**2145-9-5**]  03:17 AM
   WBC
   4.5
   4.5
   5.4
   Hct
   26.4
   27.7
   29.5
   26.4
   32
   28.6
   28.1
   Plt
   61
   64
   63
   63
   66
   65
   Cr
   1.2
   1.1
   1.1
   TCO2
   19
   20
   19
   24
   Glucose
   110
   154
   180
   Other labs: PT / PTT / INR:20.9/48.9/1.9, CK / CKMB /
   Troponin-T:69//<0.01, ALT / AST:21/49, Alk Phos / T Bili:58/7.6,
   Fibrinogen:144 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:205
   IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan:
   57 yo M with PMHx of alcoholic ESLD on transplant list, esophageal
   varices transferred from [**Hospital1 1195**] for further evaluation of TIPs procedure
   after GI bleed.
   .
   # Respiratory: Intubated for protection of airway, sedation now off for
   48 hours without improvement of mental status. Not following commands.
   Breathing pattern irregular required MMV overnight after being on [**4-6**]
   all day.
   - attempt PS trialtoday again
   - if mental status clears, would consider extubation
   - speciate and f/u sputum culture
   - continue zosyn for HCAP given sputum culture growing GNR day 5
   -CT head to evaluate for infarct
   .
   # GI Bleed: Likely upper given history of esophageal varices and
   gastric/esophageal ulcers at the banding site. Also contributing with
   portal hypertensive gastropathy oozing in setting of elevated INR.
   -octreotide gtt remains on until [**9-5**] 1 PM
   -protonix [**Hospital1 **]
   - q12 hour hct, xfuse hct<25
   - Cordis for access
   - trend INR, keep INR <2 with FFP or active bleeding
   -give 10mg IV vit K once
   - check [**Hospital1 **] INR, fibrinogen
   - fibrinogen < 100
 cryoprecipitate
   - NPO
   - carafate
   - zosyn empiric for GI bleed
   # ESLD: Complicated by variceal bleeds and hepatic encephalopathy.
   Diagnosic para negative for SBP. Liver U/S without portal venous flow.
   MELD 22.
   - hold nadolol given GI bleed
   - continue rifaxamin and lactulose (increase to QID)
   - appreciate liver input
   # ARF: Resolved after albumin and IVFs.
   # PNA: Has CXR with LLL collapse and questionable infiltrate in R
   middle lobe. ? Aspiration with intubation. Sputum Cx from OSH with GPC
   in pairs - GBS
   - empiric coverage with Zosyn given sputum culture
   .
   # Portal Vein Thrombosis: Documented at OSH and previous ultrasounds at
   [**Hospital1 1**]. Given recent GIB anticoagulation contraindicated.
   -monitor LFTs
   .
   # Thombocytopenia: Previous baseine 50-60s. Received 1 units of
   platelets.
   - trend plts
   - transfuse if active bleeding or plt < 50
   # Elevated INR: Likely [**1-4**] liver disease and coagulopathy given recent
   bleeds. INR 1.5. No current signs of bleeding admission or oozing from
   IVs. FDP elevated.
   - f/u fibrinogen replace <100
   - trend INR
   # prolonged QT: Borderline on previous EKGs here. Noted on admission
   EKG.
   -avoid meds that could prolong QT more
   -replete elytes K>4 and Mg>2
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-9-3**] 08:00 PM 30 mL/hour
 hold for
   possible extubation
   Glycemic Control:
   Lines:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2145-9-2**] 05:33 PM
   Arterial Line - [**2145-9-2**] 05:52 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2145-09-06 07:16:00 Physician Resident Progress Note
24 Hour Events:
 INVASIVE VENTILATION - STOP [**2145-9-5**] 02:30 PM
 ARTERIAL LINE - STOP [**2145-9-6**] 04:41 AM
   - extubated successfully
   - news about possible liver transplant available
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-4**] 08:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-9-5**] 09:10 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-6**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 92 (76 - 95) bpm
   BP: 114/68(80) {111/67(79) - 116/80(85)} mmHg
   RR: 11 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.5 kg (admission): 88 kg
   Height: 70 Inch
    CVP: 17 (10 - 18)mmHg
   Total In:
                                                                  2,263 mL
                                                                    395 mL
   PO:
                                                                    300 mL
                                                                    360 mL
   TF:
                                                                    878 mL
   IVF:
                                                                    685 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                  1,325 mL
   Urine:
                                                                  1,620 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    643 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,897 (699 - 1,897) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///24/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: slightly distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: + hepatic encephalopathy, + asterixis
   Labs / Radiology
   61 K/uL
   9.2 g/dL
   130 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   12 mg/dL
   121 mEq/L
   150 mEq/L
   28.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2145-9-3**]  03:59 AM
                             [**2145-9-3**]  11:31 AM
                             [**2145-9-3**]  06:56 PM
                             [**2145-9-3**]  08:04 PM
                             [**2145-9-4**]  04:00 AM
                             [**2145-9-4**]  09:15 AM
                             [**2145-9-4**]  04:24 PM
                             [**2145-9-5**]  02:38 AM
                             [**2145-9-5**]  03:17 AM
                             [**2145-9-6**]  04:44 AM
   WBC
   4.5
   5.4
   5.5
   Hct
   27.7
   29.5
   26.4
   32
   28.6
   28.1
   28.2
   Plt
   64
   63
   63
   66
   65
   61
   Cr
   1.1
   1.1
   1.0
   TCO2
   19
   20
   19
   24
   Glucose
   154
   180
   130
   Other labs: PT / PTT / INR:22.9/50.2/2.2, CK / CKMB /
   Troponin-T:69//<0.01, ALT / AST:23/45, Alk Phos / T Bili:63/8.5,
   Fibrinogen:144 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:198
   IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   [**9-1**] BCx x 2: NGTD
   [**9-1**] Ucx: negative
[**2145-9-4**] 9:59 pm SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2145-9-5**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
[**2145-9-2**] 3:26 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID #2.
   Fluid Culture in Bottles (Preliminary):    NO GROWTH.
[**2145-9-2**] 3:26 pm PERITONEAL FLUID
   GRAM STAIN (Final [**2145-9-2**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN
   FLUID CULTURE (Final [**2145-9-5**]):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
[**9-5**] CT HEAD
   FINDINGS: There is no intracranial hemorrhage, edema, mass effect, or
   vascular territorial infarction. Periventricular white matter
   hypodensities
   suggests chronic microvascular infarction. Ventricles and sulci are
   slightly
   prominent in size, suggestive of mild global parenchymal volume loss.
   The
   included paranasal sinuses reveal a right mucus retention cyst. Also
   noted is
   an air-fluid level within the left maxillary sinus as well as at the
   sphenoid
   sinus, suggestive of more acute sinus disease. Circumferential mucosal
   thickening is visualized at the base of the right maxillary sinus.
   IMPRESSION:
   1. No acute intracranial hemorrhage.
   2. Sinus disease with suggestion of acute components, predominantly
   involving
   the sphenoid sinus and left maxillary sinus.
PORTABLE CXR [**9-5**]
   Lung volumes are very low suggesting that heterogeneous opacification
   at the
   lung bases is probably due to microatelectasis. Upper lungs are clear
   and
   show no evidence of pulmonary edema. Heart size is normal. Tip of the
   ET
   tube, with the chin down is acceptable, at least 2.5 cm from the
   carina.
   Right jugular sheath is sharply folded, terminating at the thoracic
   inlet and
   a nasogastric tube passes into the stomach and out of view. Pleural
   effusion
   is small, if any, and there is no pneumothorax.
   Assessment and Plan
   57 yo M with PMHx of alcoholic ESLD on transplant list, esophageal
   varices transferred from [**Hospital1 1195**] for further evaluation of TIPs procedure
   after GI bleed, now being prepared for liver transplant.
   stable for callout.
   .
   # ESLD: Complicated by variceal bleeds and hepatic encephalopathy.
   Diagnosic para negative for SBP. Liver U/S without portal venous flow.
   Now being prepared for liver transplant
   - hold nadolol given GI bleed
   - continue rifaxamin and lactulose
   - appreciate liver input
   - appreciate transplant surgery involvement
   - restarting diuretics with lasix/aldactone
   # HCAP: On day [**5-10**] of Zosyn for HCAP.  CXR with LLL collapse and ?
   infiltrate in RML.  Possible aspiration with intubation. OSH culture
   with GBS.
   - f/u sputum culture
 GNRs
 will need speciation
   .
   # GI Bleed: Likely upper given history of esophageal varices and
   gastric/esophageal ulcers at the banding site. Also contributing with
   portal hypertensive gastropathy oozing in setting of elevated INR. s/p
   octreotide gtt
   - protonix [**Hospital1 **]
   - q24 hour hct, xfuse hct<25
   - [**Location (un) **] for access
 will PICC and plan to pull [**Location (un) **] once access
   established.
   - trend INR, keep INR <2 with FFP or active bleeding
   - NPO
   - carafate
   - zosyn empiric for GI bleed
   # Hypernatremia: - 1.4 L deficit
   - D5W at 100 cc / hour x 1 L
   - [**Hospital1 **] lytes
   .
   # Portal Vein Thrombosis: Documented at OSH and previous ultrasounds at
   [**Hospital1 1**]. Given recent GIB anticoagulation contraindicated.
   -monitor LFTs
   .
   # Thombocytopenia: Previous baseine 50-60s. Received 1 units of
   platelets.
   - trend plts
   - transfuse if active bleeding or plt < 50
   # Elevated INR: Likely [**1-4**] liver disease and coagulopathy given recent
   bleeds. INR 2.2.  No current signs of bleeding admission or oozing from
   IVs. FDP elevated.
   - f/u fibrinogen replace <100
   - trend INR
   - will defer to transplant surgery regarding FFP and INR goals
   # Prolonged QT: Borderline on previous EKGs here. Noted on admission
   EKG.
   - Avoid meds that could prolong QT more
   - Replete lytes K>4 and Mg>2
   ICU Care
   Nutrition:
   Comments: Holding Tube Feeds for Surgery
   Glycemic Control:
   Lines:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2145-9-2**] 05:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to [**Doctor Last Name 2572**]-[**Doctor Last Name **]